* PEX produced on Thu Jul 23 04:50:27 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=1 and s=1
* NGSPICE file created from sg13_lv_rf_nmos_pex.ext - technology: ihp-sg13g2

.subckt sg13_lv_rf_nmos_pex S D G B
X0 D G S B sg13_lv_nmos ad=0.345p pd=2.69u as=0.345p ps=2.69u w=1u l=0.72u
C0 D B 0.70863f
C1 S B 0.70863f
.ends

