* PEX produced on Thu Jul 23 04:51:36 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=1 and s=1
* NGSPICE file created from sg13_rf_cmim_pex.ext - technology: ihp-sg13g2

.subckt sg13_rf_cmim_pex C1 C0 CX
X0 C0 C1 cap_rfcmim l=10u w=10u
C0 C1 CX 5.07011f
.ends

