* PEX produced on Thu Jul 23 04:53:25 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from sg13_rsil_pex.ext - technology: ihp-sg13g2

.subckt sg13_rsil_pex R1 R0
X0 R1 R0 sub rsil l=0.5u w=0.5u
C0 R0 R1 0.02408f
C1 R0 sub 0.14039f
C2 R1 sub 0.14039f
.ends

